US06350907B1
A mixture of palladium acetate (20 mg, 0.08 mmol) and tri-(2-methylphenyl)phosphine (50 mg, 016 mmol) was added to a stirred solution of tert-butyl (3R)-3-({[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]amino}carbonyl)hex-5-enoate (Preparation 2)(700 mg, 1.63 mmol), 3-fluoro-4-phenoxy-bromobenzene (Preparation 10)(479 mg, 1.79 mmol), and triethylamine (340 μL, 2.43 mmol) in anhydrous acetonitrile (3 mL) under nitrogen. The mixture was purged with nitrogen, then heated at reflux for 14 h. Additional palladium acetate (20 mg, 0.08 mmol) and tri-(2-methylphenyl)phosphine (50 mg, 016 mmol) was added and the mixture was heated for a further 9 h. After being cooled, the mixture was poured into ethyl acetate (100 mL) and washed with saturated aqueous sodium chloride (2×50 mL), dried (MgSO4), and concentrated under reduced pressure. The residue was purified by flash chromatography (eluting with hexane:ethyl acetate=9:1) to give mainly tert-butyl (3R,5E)-3-({[(1s)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]amino }carbonyl)-6-(3-fluoro-4-phenoxyphenyl)hex-5-enoate as a colourless oil (949 mg). 1H nmr suggested that two alkene isomers, the (5Z) and (4E), together with the alkene starting material (10%) were also present. The mixture of alkenes was taken onto the next step (see b, below).

reactant | tri-(2-methylphenyl)phosphine | 50 mg | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
reactant | tert-butyl (3R)-3-({[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]amino}carbonyl)hex-5-enoate | 1.63 mmol, 700 mg | CC([C@@H](C(=O)N[C@H](C)C1=CC=CC=C1)NC(=O)[C@@H](CC(=O)OC(C)(C)C)CC=C)(C)C | C25H38N2O4
reactant | 3-fluoro-4-phenoxy-bromobenzene | 1.79 mmol, 479 mg | FC=1C=C(C=CC1OC1=CC=CC=C1)Br | C12H8BrFO
reactant | triethylamine | 2.43 mmol, 340 μL | C(C)N(CC)CC | C6H15N
reactant | tri-(2-methylphenyl)phosphine | 50 mg | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
catalyst | palladium acetate | 0.08 mmol, 20 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium acetate | 0.08 mmol, 20 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl (3R,5E)-3-({[(1s)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]amino }carbonyl)-6-(3-fluoro-4-phenoxyphenyl)hex-5-enoate | 949 mg | CC([C@@H](C(=O)N[C@H](C)C1=CC=CC=C1)NC(=O)[C@@H](CC(=O)OC(C)(C)C)C\C=C\C1=CC(=C(C=C1)OC1=CC=CC=C1)F)(C)C | C37H45FN2O5
